US07696240B2
3-(2-Carboxy-ethyl)-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 3-(2-ethoxycarbonyl-ethyl)-1H-indole-2-carboxylic acid ethyl ester was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 372.4 ([M−H]−).

reactant | 3-(2-ethoxycarbonyl-ethyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1CCC(=O)OCC | C16H19NO4
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 3-(2-Carboxy-ethyl)-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | C(=O)(O)CCC1=C(N(C2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12)C(=O)O | C23H19NO4
